US04342771
6-Hydroxyquinoline-5-carbaldehyde
Sodium hydroxide (25 g.) was dissolved in 35 ml. of water with cooling, 6-hydroxyquinoline (5 g.) in 15 ml. of chloroform was added and the reaction mixture heated to reflux (about 90° C.) for 12 hours, during which two further 15 ml. portions of chloroform were added--one after 2 hours and the other after 6 hours. The reaction mixture was cooled and crude product recovered by filtration. The crude was dissolved in 125 ml. of hot water treated with activated carbon, filtered hot, cooled and acidified with acetic acid and filtered to yield title product [2.5 g.; m.p 136°-137° C.; m/e 173; pnmr/CDCl3 shows aldehyde proton at 10.5 ppm and aromatic protons at 7.2-9.4 ppm⟧

reactant | Sodium hydroxide | 25 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | 6-hydroxyquinoline | 5 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Hydroxyquinoline-5-carbaldehyde | OC1=C(C=2C=CC=NC2C=C1)C=O | C10H7NO2
